US07674791B2
Methyl 3-amino-2-pyrazine-carboxylate (10 g, 65.3 mmol) was dissolved in glacial acetic acid (50 mL) by warming to approximately 45° C. To the warm solution was added bromine (3.7 mL) in acetic acid (5 mL) dropwise and the resulting mixture was stirred at room temperature for 20 minutes. The solution was diluted with water (300 mL) and then stirred at room temperature for 30 minutes, which resulted in a precipitate. The precipitate was then filtered, washed with water and dried to afford methyl 3-amino-6-bromo-2-pyrazine-carboxylate as a yellow solid (14.2 g, 94%). 1H NMR (300 MHz, CDCl3) δ3.99 (s, 3H), 8.30 (s, 1 H); 13C NMR (100 MHz, CDCl3) δ 53.02, 123.49, 124.85, 150.24, 154.70, 166.04.

reactant | Methyl 3-amino-2-pyrazine-carboxylate | 65.3 mmol, 10 g | NC=1C(=NC=CN1)C(=O)OC | C6H7N3O2
reactant | bromine | 3.7 mL | BrBr | Br2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
product | methyl 3-amino-6-bromo-2-pyrazine-carboxylate | 14.2 g, 94% | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
